US05958942
ii) Synthesis of 1,2-dihydro-3-methyl-1-[3-[(2,2,2-trifluoro)ethanesulfonamido]butan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one-hydrochloride
To a solution of 840 mg (2.15 mmol) of 1,2-dihydro-3-methyl-1-[3-[(2,2,2-trifluoro)-ethanesulfonamido]butan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one in 10 ml of methanol was added 0.22 ml of conc. HCl. The solvent was distilled off, and the residue was washed with acetone-ether to give 915 mg of the desired compound (99.7%, colorless solid), m.p.116.0-118° C.

reactant | 1,2-dihydro-3-methyl-1-[3-[(2,2,2-trifluoro)-ethanesulfonamido]butan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one | 2.15 mmol, 840 mg | CC=1N=C2N3C1C(N(C3=CC=C2)CCC(C)NS(=O)(=O)CC(F)(F)F)=O | C15H17F3N4O3S
reactant | HCl | 0.22 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 1,2-dihydro-3-methyl-1-[3-[(2,2,2-trifluoro)ethanesulfonamido]butan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one-hydrochloride | 915 mg, 99.7% | Cl.CC=1N=C2N3C1C(N(C3=CC=C2)CCC(C)NS(=O)(=O)CC(F)(F)F)=O | InChI=1S/C15H17F3N4O3S.ClH/c1-9(20-26(24,25)8-15(16,17)18)6-7-21-12-5-3-4-11-19-10(2)13(14(21)23)22(11)12;/h3-5,9,20H,6-8H2,1-2H3;1H
